US04272550
Combine methyl 2-[4-(hexafluoro-2-hydroxy-2-propyl)-2,6-dimethylphenylthio]acetate with 30 ml ethanol and 5 ml 1.0 N sodium hydroxide. Reflux 4 hours, add 5 ml 1.0 N HCl, and extract with ether. Dry, concentrate and recrystallize from ether-hexane to obtain 2-[4-(hexafluoro-2-hydroxy-2-propyl)-2,6-dimethylphenylthio]acetic acid, m.p. 133°-135° C.

reactant | methyl 2-[4-(hexafluoro-2-hydroxy-2-propyl)-2,6-dimethylphenylthio]acetate | FC(C(C(F)(F)F)(O)C1=CC(=C(C(=C1)C)SCC(=O)OC)C)(F)F | C14H14F6O3S
reactant | sodium hydroxide | 1.0 N, 5 ml | [OH-].[Na+]
reactant | HCl | 1.0 N, 5 ml | Cl | ClH
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 2-[4-(hexafluoro-2-hydroxy-2-propyl)-2,6-dimethylphenylthio]acetic acid | FC(C(C(F)(F)F)(O)C1=CC(=C(C(=C1)C)SCC(=O)O)C)(F)F | C13H12F6O3S
